US04910218
Using the procedure outlined in Example 34A except that dimethyl sulfate was used as the alkylating agent, ethyl 1H-[1]benzothieno[2,3-g]indole-2-carboxylate (H. G. Pars Pharmaceutical Laboratories, Inc.) gave a quantitative yield of ethyl 1-methyl-1H-[1]benzothieno[2,3-g]indole-2-carboxylate, mp 85°-86°, (PhCH3), (C,H,N).

reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | ethyl 1H-[1]benzothieno[2,3-g]indole-2-carboxylate | N1C(=CC2=CC=C3C(=C12)C1=C(S3)C=CC=C1)C(=O)OCC | C17H13NO2S
solvent | PhCH3 | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-methyl-1H-[1]benzothieno[2,3-g]indole-2-carboxylate | quantitative yield | CN1C(=CC2=CC=C3C(=C12)C1=C(S3)C=CC=C1)C(=O)OCC | C18H15NO2S
